2125-08-29 07:06:00 Physician Resident Progress Note
Chief Complaint: GI bleed
   24 Hour Events:
   [**2125-8-28**]
   - EGD showed no active bleeding.
   - [**Last Name (un) **] showed bleeding hemorrhoids
   - anoscopy performed by surgery; sutures and staples with improvement
   but not complete resolution of the bleeding; anal packing left in place
   - Transfused: 8 units PRBCs (Hct 22.3 --> 33.1),  7 units FFP (INR 3.0
   --> 1.7), 1 unit of cryoprecipitate
   - Intubated in anticipation of large volume resuscitation; right cordis
   placed
   - IR contact[**Name (NI) **] for possibility of need for TIPS overnight but this was
   not needed
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2125-8-28**] 11:40 PM
   Infusions:
   Octreotide - 25 mcg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2125-8-28**] 06:00 PM
   Fentanyl - [**2125-8-28**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-8-29**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.4
   HR: 85 (81 - 106) bpm
   BP: 127/70(91) {113/62(82) - 157/86(115)} mmHg
   RR: 15 (7 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.8 kg (admission): 68.8 kg
           Total In:
                                                                  6,033 mL
                                                                  1,457 mL
   PO:
           TF:
   IVF:
                                                                    479 mL
                                                                    213 mL
   Blood products:
                                                                  5,554 mL
                                                                  1,244 mL
   Total out:
                                                                    730 mL
                                                                    510 mL
   Urine:
                                                                    330 mL
                                                                    510 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  5,303 mL
                                                                    947 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 408 (408 - 408) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 14
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: 7.42/40/135/24/1
   Ve: 6.4 L/min
   PaO2 / FiO2: 338
   Physical Examination
   GEN: nad, intubated, sedated
   HEENT: icteric sclera, intubated
   CV: RRR, no m/r/g
   abd: distended, ascites, not tense
   Ext: pitting edema
   Labs / Radiology
   69 K/uL
   12.0 g/dL
   105 mg/dL
   0.9 mg/dL
   24 mEq/L
   4.7 mEq/L
   77 mg/dL
   107 mEq/L
   143 mEq/L
   33.1 %
   8.4 K/uL
        [image002.jpg]
                             [**2125-8-28**]  07:23 PM
                             [**2125-8-28**]  10:12 PM
                             [**2125-8-28**]  10:16 PM
                             [**2125-8-29**]  12:09 AM
                             [**2125-8-29**]  01:30 AM
                             [**2125-8-29**]  03:59 AM
                             [**2125-8-29**]  04:12 AM
                             [**2125-8-29**]  05:45 AM
   WBC
   8.6
   8.4
   Hct
   24.6
   28.3
   30.2
   33.9
   33.1
   Plt
   86
   69
   Cr
   1.4
   0.9
   TCO2
   27
   27
   Glucose
   134
   113
   105
   Other labs: PT / PTT / INR:18.8/41.8/1.7, ALT / AST:15/33, Alk Phos / T
   Bili:50/22.4, Differential-Neuts:63.0 %, Lymph:14.6 %, Mono:12.8 %,
   Eos:9.0 %, Fibrinogen:167 mg/dL, LDH:265 IU/L, Ca++:9.6 mg/dL, Mg++:2.9
   mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   A/P:  Ms. [**Known lastname 5566**] is a 63 yo female with alcoholic cirrhosis who was
   initially admitted on [**2125-8-19**] for ARF which has improved with albumin
   and holding diuretics, now in MICU for GIB (?hemorroidal).
   .
   1. GIB.  Patient has history of esophageal varices and antral ulcer.
   .EGD showed no evidence of bleeding, but colonoscopy showed bleeding
   hemorrhoids She underwent anoscopy by surgery with suture placement
   followed by packing with some improvement of bleeding.   She is s/p 7
   units PRBCs and Hct is stabilizid.  Also s/p 6 units of FFP.
   - IV octreotide for therapy of variceal bleed
   - IVV PPI
   - transfuse to keep Hct > 30
   - FFP to keep INR < 2
   - q 4-6 hour Hcts,  INR
   - Access: right sided picc, 2 20 guage peripherals, cordis
   - type and cross 4 units
   - hold nadolol for now
   - NPO for now
   - urgent tips placement vs. local control with surgery (suture/clips)
   versus tamponade with foley if brisk bleed
   - strict bowel rest
   .
   2. Alcoholic cirrhosis.  Patient has alcoholic cirrhosis complicated by
   ascites, and encephalopathy in the past.  She requires weekly [**Doctor First Name 3619**].
   MELD as high as 42 last week.  Currently undergoing liver transplant
   eval and hopes to be put on the list in the upcoming days.
   - hold nadolol
   - hold lactulose & rifaximin due to lack of po access
   - ceftriaxone for SBP ppx in settin gof GI bleed
   - continue vitamin K daily
   - hold diuretics
   - discuss with GI re: saftey of NGT placement
   .
   3.  ARF.  ARF has improved from Cr of 4.0 to 0.9  today with albumin
   and holding diuretics and 7 units of PRBCs.  There was concern for AIN
   secondary to ?midodrine versus cipro.
   - follow Cr
   - renally dose all meds
   - blood transfusions for colloid rather than albumin
   .
   4.  Exfoliative Dermatitis.  Was evaluated by derm and thought to be
   consistent wtih a drug rash.  Now resolving.
   - continue triamcinolone and sarna
   .
   5.  Pulmonary Hypertension.  Pulmonary HTN noted on right heart cath as
   part of transplant workup.  It is most likely related to fluid
   overload, though unable to diurese at current time due to GIB.
   - hold diuresis
   .
   6.  RLE edema.  Patient with Right greater than Left edema.  Though
   there is concern for possible DVT, could not get anticoagulated given
   elevated INR and GIB.
   - RLE LENI (preliminiarliy negative)
   .
   FEN: PRBC transfusions, replete electrolytes, absolute bowel rest
   .
   Prophylaxis: pneumoboots
   .
   Access: right PICC, 2 20s, corids
   .
   Code: full, confirmed with patient, ICU consent signed
   .
   Communication: Patient
   .
   Disposition: pending stability of hct and cessation of GIB
   .
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2125-8-28**] 04:59 PM
   20 Gauge - [**2125-8-28**] 04:59 PM
   Cordis/Introducer - [**2125-8-28**] 09:00 PM
   Arterial Line - [**2125-8-28**] 10:24 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2125-08-29 11:16:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2125-8-28**] 04:59 PM
 ENDOSCOPY - : no active bleeding
 COLONOSCOPY - internal hemorrhoids with active bleeding
 INVASIVE VENTILATION - elective intubation in anticipation of massive
   resuscitation
 CORDIS/INTRODUCER - START [**2125-8-28**] 09:00 PM
 ARTERIAL LINE - START [**2125-8-28**] 10:24 PM
   *Bedside anoscopy by surgery - sutures/staples performed with some
   improvement. Packed overnight, removed this morning
   *Resuscitated : 8 units blood, 7 units ffp, 1 unit cryo
   *Stayed normotensive
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2125-8-28**] 11:40 PM
   Infusions:
   Octreotide - 25 mcg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2125-8-28**] 06:00 PM
   Fentanyl - [**2125-8-28**] 06:00 PM
   Pantoprazole (Protonix) - [**2125-8-29**] 08:00 AM
   Other medications:
   folic acid, ursodiol, thiamine, ferrous sulfate, zinc sulfate, vitamin
   K, lactulose, sevelamir, vitamin D, NaHCo3
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-8-29**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.3
   HR: 82 (81 - 106) bpm
   BP: 122/62(84) {113/62(82) - 157/86(115)} mmHg
   RR: 18 (7 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.8 kg (admission): 68.8 kg
           Total In:
                                                                  6,033 mL
                                                                  1,562 mL
   PO:
           TF:
   IVF:
                                                                    479 mL
                                                                    318 mL
   Blood products:
                                                                  5,554 mL
                                                                  1,244 mL
   Total out:
                                                                    730 mL
                                                                    695 mL
   Urine:
                                                                    330 mL
                                                                    695 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  5,303 mL
                                                                    867 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 408 (408 - 408) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 14
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.42/40/135/24/1
   Ve: 7 L/min
   PaO2 / FiO2: 338
   Physical Examination
   General Appearance: Well nourished, no acute distress, sedated
   Eyes / Conjunctiva: icteric sclera
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube,
   Lymphatic: Cervical WNL, Supraclavicular WNL, No(t) Cervical adenopathy
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal); 2/6 SEM
   Lungs: mostly clear anteriorly
   Peripheral Vascular; +radial/DP pulses
   Abdominal: Soft, Distended, ascites
   Skin:  warm, icteric
   Ext: [**3-13**] + peripheral edema (R>left), bilateral boots
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.0 g/dL
   69 K/uL
   105 mg/dL
   0.9 mg/dL (unchanged)
   24 mEq/L
   4.7 mEq/L
   77 mg/dL (unchanged)
   107 mEq/L
   143 mEq/L
   34.8 %
   8.4 K/uL
        [image002.jpg]
                             [**2125-8-28**]  07:23 PM
                             [**2125-8-28**]  10:12 PM
                             [**2125-8-28**]  10:16 PM
                             [**2125-8-29**]  12:09 AM
                             [**2125-8-29**]  01:30 AM
                             [**2125-8-29**]  03:59 AM
                             [**2125-8-29**]  04:12 AM
                             [**2125-8-29**]  05:45 AM
                             [**2125-8-29**]  09:47 AM
   WBC
   8.6
   8.4
   Hct
   24.6
   28.3
   30.2
   33.9
   33.1
   34.8
   Plt
   86
   69
   Cr
   1.4
   0.9
   TCO2
   27
   27
   Glucose
   134
   113
   105
   Other labs: PT / PTT / INR:17.9/41.8/1.6, ALT / AST:15/33, Alk Phos / T
   Bili:50/22.4 (was 13), Differential-Neuts:63.0 %, Lymph:14.6 %,
   Mono:12.8 %, Eos:9.0 %, Fibrinogen:167 mg/dL, LDH:265 IU/L, Ca++:9.6
   mg/dL, Mg++:2.9 mg/dL, PO4:3.9 mg/dL
   Imaging: initial CXR: R mainstem bronchus with left-collapse
   this am: ETT 4 cm above carina, improved aeration left lung fields,
   small lung volumes
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Problem list:
   1. GI bleed/acute blood loss anemia
   2. Acute respiratory failure
   3. EtOH cirrhosis
   63 yo female with EtOH cirrhosis, admitted initially with  renal
   failure which improved with colloids, also drug
related rash.
   Was undergoing transplant eval, when  yesterday she developed GI
   bleed/acute blood loss anemia
   *GI bleed/acute blood loss anemia: Lower GI bleed due to hemorrhoids by
   colonoscopy. Has evidence of diffuse varices also, though these were
   not actively bleeding by
scope yesterday
   received 8 units blood and 7 units ffp,
   -Rectal packing removed this morning by surgery- will monitor for
   worsening bleeding. They may try to further contain locally by balloon
   tamponade
   -Serial hct
   - transfuse as needed for Hct< 30, or more frequently as needed
   dependent  on rapidity of bleeding and hemodynamic status
   - Transplant surgery continuing to follow- may do further packing
   - If unable to control bleeding locally, may require  surgery
   (proctectomy, colectomy). However, as pt has multiple possible sites
   for active bleeding, this may not address the underlying issue. TIPS
   would reduce portal pressures, but also risky due to increased
   likelihood of hepatic encephalopathy. Management decision will depend
   on whether she starts to re-bleed, and how easily this can be
   contained. Liver and transplant team continue to follow closely.
   *EtOH cirrhosis:
   -CTX started for SBP prophylaxis in the setting of GI bleed
   -Diuretics held due to GI bleed
   - No urgent need for paracentesis
   -Clarify transplant status with liver team
   -Off lactulose for the time being as pt unable to take po, and OGT or
   NGT placement would run the risk of triggering local trauma/variceal
   bleed.
   *Acute respiratory failure: intubated electively due to massive
   resuscitation
   -Adequate oxygenation and ventilation on current settings
   - Continue mechanical ventilation as pt remains at high risk for
   massive bleed due to varices, hemorrhoids and high portal pressures
   Acute renal failure: had resolved prior to MICU transfer. Continue to
   trend
   Pulm HTN secondary to LV overload: no active intervention given pt
   acute issues
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2125-8-28**] 04:59 PM
   20 Gauge - [**2125-8-28**] 04:59 PM
   Cordis/Introducer - [**2125-8-28**] 09:00 PM
   Arterial Line - [**2125-8-28**] 10:24 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2125-08-30 07:52:00 Physician Resident Progress Note
[**Known firstname 787**] [**Known lastname 5566**] [**Numeric Identifier 8987**]
   Chief Complaint: GI bleed
   24 Hour Events:
   [**2125-8-29**]
   -HCT stable, no additional blood transfusions
   -per liver, plan for wean/extubate, then feed
   -gave 1 unit of cryo
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2125-8-29**] 09:00 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Octreotide - 25 mcg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-8-29**] 08:00 AM
   Dextrose 50% - [**2125-8-30**] 06:10 AM
   Other medications:
   Ceftriaxone d1 = [**8-28**]/
   Fent/Versed drips
   Octreotide drip
   IV PP*I [**Hospital1 7**]
   Sodium Bicarb
   Vitamin D weekly
   Zofran
   Sevelemaer
   Lactulose TID
   Vit K
   Zinc/ Thiamine/ Ferrous sulfate
   Ursodiol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-8-30**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.6
C (97.8
   HR: 84 (79 - 103) bpm
   BP: 114/57(77) {105/53(72) - 136/73(99)} mmHg
   RR: 17 (10 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.8 kg (admission): 68.8 kg
    Bladder pressure: 15 (15 - 15) mmHg
   Total In:
                                                                  2,118 mL
                                                                    497 mL
   PO:
   TF:
   IVF:
                                                                    724 mL
                                                                    472 mL
   Blood products:
                                                                  1,394 mL
   Total out:
                                                                  1,250 mL
                                                                    305 mL
   Urine:
                                                                  1,250 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    868 mL
                                                                    192 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 14 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.43/39/270/22/2
   Ve: 5.9 L/min
   PaO2 / FiO2: 675
   Physical Examination
   Gen: intubated sedated, not responsive to commands
   HEENT: intubated, icteric sclera
   CV: RRR, systolic mumur
   Pulm:  coarse breath sounds b/l
   Abd: more distended, but soft, bowel sounds present
   Ext: b/l LE edema,
   Skin:  erythema over RLQ and RLE with warmth
   Neurologic: unresponsive
   [**Known firstname 787**] [**Known lastname 5566**] [**Numeric Identifier 8987**]
   Labs / Radiology
   73 K/uL
   13.1 g/dL
   66 mg/dL
   0.6 mg/dL
   22 mEq/L
   4.2 mEq/L
   77 mg/dL
   111 mEq/L
   146 mEq/L
   34.6 %
   8.6 K/uL
                             [**2125-8-29**]  01:30 AM
                             [**2125-8-29**]  03:59 AM
                             [**2125-8-29**]  04:12 AM
                             [**2125-8-29**]  05:45 AM
                             [**2125-8-29**]  09:47 AM
                             [**2125-8-29**]  02:25 PM
                             [**2125-8-29**]  06:27 PM
                             [**2125-8-30**]  01:11 AM
                             [**2125-8-30**]  01:20 AM
                             [**2125-8-30**]  07:00 AM
   WBC
   8.4
   8.6
   Hct
   30.2
   33.9
   33.1
   34.8
   35.8
   36.5
   35.9
   34.6
   Plt
   69
   73
   Cr
   0.9
   0.6
   TCO2
   27
   27
   Glucose
   113
   105
   66
   Other labs: PT / PTT / INR:21.6/40.6/2.0, ALT / AST:16/38, Alk Phos / T
   Bili:53/23.1, Differential-Neuts:64.9 %, Lymph:11.5 %, Mono:8.6 %,
   Eos:14.3 %, Fibrinogen:239 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:3.8
   g/dL, LDH:258 IU/L, Ca++:10.0 mg/dL, Mg++:2.8 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   A/P:  Ms. [**Known lastname 5566**] is a 63 yo female with alcoholic cirrhosis who was
   initially admitted on [**2125-8-19**] for ARF which has improved with albumin
   and holding diuretics, now in MICU for GIB (?hemorroidal).
   .
   1. GIB.  Patient has history of esophageal varices and antral ulcer.
   .EGD showed no evidence of bleeding, but colonoscopy showed bleeding
   hemorrhoids She underwent anoscopy by surgery with suture placement
   followed by packing with some improvement of bleeding.   She is s/p 7
   units PRBCs and s/p 6 units of FFP, but no transfusions in > 24 hours
   and Hct stabilized.
   - IV octreotide for therapy of variceal bleed
   - IVV PPI though this is not consistent with bleed secondary to PUD
   - transfuse to keep Hct > 30
   - will allow INR to rise,but transfuse FFP if there is evidence of
   re-bleed
   - TID hour Hcts,  INR
   - Access: right sided picc, 2 20 guage peripherals, cordis
   - type and cross 4 units
   - hold nadolol for now
   - urgent tips placement vs. local control with surgery (suture/clips)
   versus tamponade with foley if brisk bleed
   - strict bowel rest
   .
   2. Alcoholic cirrhosis.  Patient has alcoholic cirrhosis complicated by
   ascites, and encephalopathy in the past.  She requires weekly [**Doctor First Name 3619**].
   MELD as high as 42 last week.  Currently undergoing liver transplant
   eval and hopes to be put on the list in the upcoming days.  Her lack of
   lacutlose due to no PO access may result in encephalopathy given GI
   Bleed.
   - hold nadolol
   - resume lactulose & rifaximin once extubate and able to take Pos, if
   unable to extubate, will ask GI with assistance to place NGT
   - d/c ceftriaxone in setting of rising eonophilia and drug rash on
   abdomen
   - resume vitamin K when PO access is acheived
   - hold diuretics in setting of bleed
   - aztreonam to cover SBP ( in addition to VAP)
   .
   3.  Respiratory failure.  Patient intubated for airway protection.  Now
   with LLL infiltrate and low grade fever.  Will broaden abx to
   vanco/aztreonam to cover PNA.   Will hold all sedatives and use propfol
   if needed for sedation.  She may have component of hepatic
   encephalopathy which is unlikely to resolve without lactulose.
   - hold all sedatives
   - PS trial if responding to commands
   - if does not awaken without sedation; will need NGT for lactulose
   .
   4.  Eosinophilia.  The rising eosinophilia, low grade fever and abd
   rash is suggestive of drug rash to ?ceftriaxone.
   - trend eos
   - d/c ceftriaxone
   5..  ARF.  ARF has improved from Cr of 4.0 to 0.6  today with albumin
   and holding diuretics and 7 units of PRBCs.
   - follow Cr
   - renally dose all meds
   .
   6.  Fevers.  Possibilities include VAP (LLL infiltrate on CXR), drug
   fever (?ceftriaxone), SBP.
   - d/c ceftriaxone given concern for drug rash
   - vanco/aztreonam for VAP
   .
   7.  Exfoliative Dermatitis.  Was evaluated by derm and thought to be
   consistent wtih a drug rash.  Now resolving.
   - continue triamcinolone and sarna
   .
   8.  Pulmonary Hypertension.  Pulmonary HTN noted on right heart cath as
   part of transplant workup.  It is most likely related to fluid
   overload, though unable to diurese at current time due to GIB.
   - hold diuresis
   .
   9.  RLE edema.  Patient with Right greater than Left edema.  LENI was
   negative for DVT.
   .
   FEN: PRBC transfusions, replete electrolytes, absolute bowel rest
   .
   Prophylaxis: pneumoboots
   .
   Access: right PICC, 2 20s, corids
   .
   Code: full, confirmed with patient, ICU consent signed
   .
   Communication: Patient
   .
   Disposition: pending stability of hct and cessation of GIB
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2125-8-28**] 04:59 PM
   20 Gauge - [**2125-8-28**] 04:59 PM
   Cordis/Introducer - [**2125-8-28**] 09:00 PM
   Arterial Line - [**2125-8-28**] 10:24 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2125-08-30 10:41:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2125-8-29**] 09:15 AM
   BLE
   received 1u cryo yest.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2125-8-29**] 09:00 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Octreotide - 25 mcg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Dextrose 50% - [**2125-8-30**] 06:10 AM
   Pantoprazole (Protonix) - [**2125-8-30**] 08:14 AM
   Other medications:
   ursodiol, folate, thiamine, FeSO4, Zinc, vit K, lactulose, Renagel, vit
   D, NaHCO3, Pantoprazole, octreotide gtt, versed gtt, fentanyl gtt, CTX,
   Peridex
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-8-30**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.5
C (97.7
   HR: 82 (79 - 103) bpm
   BP: 103/53(70) {103/53(70) - 136/77(99)} mmHg
   RR: 16 (10 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.8 kg (admission): 68.8 kg
   Bladder pressure: 15 (15 - 15) mmHg
   Total In:
                                                                  2,118 mL
                                                                    672 mL
   PO:
   TF:
   IVF:
                                                                    724 mL
                                                                    647 mL
   Blood products:
                                                                  1,394 mL
   Total out:
                                                                  1,250 mL
                                                                    455 mL
   Urine:
                                                                  1,250 mL
                                                                    455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    868 mL
                                                                    217 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: 7.43/39/270/22/2
   Ve: 6.4 L/min
   PaO2 / FiO2: 675
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic),
   holosyst apical
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: Trace
   Skin:  Not assessed, Rash: erythema on abd, Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   13.1 g/dL
   73 K/uL
   66 mg/dL
   0.6 mg/dL
   22 mEq/L
   4.2 mEq/L
   77 mg/dL
   111 mEq/L
   146 mEq/L
   34.6 %
   8.6 K/uL
        [image002.jpg]
                             [**2125-8-29**]  01:30 AM
                             [**2125-8-29**]  03:59 AM
                             [**2125-8-29**]  04:12 AM
                             [**2125-8-29**]  05:45 AM
                             [**2125-8-29**]  09:47 AM
                             [**2125-8-29**]  02:25 PM
                             [**2125-8-29**]  06:27 PM
                             [**2125-8-30**]  01:11 AM
                             [**2125-8-30**]  01:20 AM
                             [**2125-8-30**]  07:00 AM
   WBC
   8.4
   8.6
   Hct
   30.2
   33.9
   33.1
   34.8
   35.8
   36.5
   35.9
   34.6
   Plt
   69
   73
   Cr
   0.9
   0.6
   TCO2
   27
   27
   Glucose
   113
   105
   66
   Other labs: PT / PTT / INR:22.4/41.9/2.1, ALT / AST:16/38, Alk Phos / T
   Bili:53/23.1, Differential-Neuts:64.9 %, Lymph:11.5 %, Mono:8.6 %,
   Eos:14.3 %, Fibrinogen:200 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:3.8
   g/dL, LDH:258 IU/L, Ca++:10.0 mg/dL, Mg++:2.8 mg/dL, PO4:3.8 mg/dL
   Microbiology: all neg or pending
   Assessment and Plan
   63 yo female with EtOH cirrhosis (undergoing pretransplant eval),
   admitted initially with  renal failure which improved with colloids,
   also drug
related rash. Was undergoing transplant eval, when
   yesterday she developed GI bleed/acute blood loss anemia. Stable
   following endoscopy showing hemorrhoids
   GI bleed/acute blood loss anemia: Lower GI bleed due to hemorrhoids by
   colonoscopy. Has evidence of diffuse varices also, though these were
   not actively bleeding by
scope yesterday
   -received 8 units blood and 7 units ffp, 2u cryo
   -Rectal packing removed yest by surgery- will monitor for worsening
   bleeding. They may try to further contain locally by balloon tamponade
   -Serial hct
   - transfuse as needed for Hct< 30, or more frequently as needed
   dependent  on rapidity of bleeding and hemodynamic status
   - Transplant surgery continuing to follow- may do further packing
   - If unable to control bleeding locally, may require  surgery
   (proctectomy, colectomy). However, as pt has multiple possible sites
   for active bleeding, this may not address the underlying issue. TIPS
   would reduce portal pressures, but also risky due to increased
   likelihood of hepatic encephalopathy. Management decision will depend
   on whether she starts to re-bleed, and how easily this can be
   contained. Liver and transplant team continue to follow closely.
   Fever: low grade overnight; sources include possible cellulitis, lung
   (infiltrate on CXR)
   -broaden ABX to vanco + cefepime
   -pan-culture, consider repeat paracent
   EtOH cirrhosis:
   -Diuretics held due to GI bleed
   -Clarify transplant status with liver team
   -Off lactulose for the time being as pt unable to take po, and OGT or
   NGT placement would run the risk of triggering local trauma/variceal
   bleed.
   Acute respiratory failure: intubated electively due to massive
   resuscitation. Adequate oxygenation and ventilation on current settings
   -Continue mechanical ventilation as pt remains at high risk for massive
   bleed due to varices, hemorrhoids and high portal pressures
   -Paracentesis prior to extubation
   -PSV trial today
   Acute renal failure: had resolved prior to MICU transfer. Continue to
   trend
   Pulm HTN secondary to LV overload: no active intervention given pt
   acute issues
   ICU Care
   Nutrition:
   Comments: npo
   Glycemic Control:
   Lines:
   PICC Line - [**2125-8-28**] 04:59 PM
   20 Gauge - [**2125-8-28**] 04:59 PM
   Cordis/Introducer - [**2125-8-28**] 09:00 PM
   Arterial Line - [**2125-8-28**] 10:24 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   Eosinophilia evolving w/ CTX treatment as well as rash noted. Therefore
   will use aztreonam instead of cefepime for broader GNR coverage
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 5199**], MD
   on:[**2125-8-30**] 10:43 ------
   I saw and examined the pt independently, and was present with the MICU
   housestaff team for the key portions of services provided. I agree with
   the history, physical, assessment and plan as outlined by Dr.
   [**Last Name (STitle) 5199**] above, and would add:
   63 yo female with alcoholic cirrhosis transferred to the ICU [**8-28**] for
   GI bleed from hemorrhoids with acute blood loss anemia. Her hct
s have
   remained unchanged over the past day with no obvious recurrent
   bleeding. She continues to have acute respiratory failure predominantly
   related to excessive sedation, though low-grade temperatures also
   developed with concerns for an evolving VAP. Continuous sedative
   infusions have been stopped and will continue to monitor neurological
   status closely.  Will also proceed with therapeutic paracentesis. Once
   the patient is more awake, will move to spontaneous breathing trial
   with aim of liberating from ventilator. Her antibiotics have been
   changed to vancomycin and aztreonam for better VAP coverage.
   Pt is critically ill. Total time spent: 40 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2125-8-30**] 15:57 ------

2125-08-31 07:26:00 Physician Resident Progress Note
Chief Complaint: GI BLeed
   24 Hour Events:
   [**2125-8-30**]
   - sedation turned off, still on AC as not breathing on her own
   - opened her eyes once overnight
   - CXR with new infiltrate, started on vanco/aztreonam
   - FFP given, paracentesis removed 1.3L, no SBP in fluid
   - hct falling slightly 36 to 30 but then stabalized, no blood from
   bottom
   - GI recommended to stop octreotide (kept it on overnight with the mild
   hct drop)
   - is not technically on transplant list yet, but will be soon pending
   some insurance issues
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2125-8-29**] 09:00 PM
   Vancomycin - [**2125-8-31**] 12:00 AM
   Aztreonam - [**2125-8-31**] 12:00 AM
   Infusions:
   Octreotide - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-8-30**] 08:00 PM
   Other medications:
   See [**Month (only) **].
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-8-31**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 86 (76 - 88) bpm
   BP: 125/62(84) {103/53(70) - 137/77(95)} mmHg
   RR: 8 (7 - 18) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.8 kg (admission): 68.8 kg
    Bladder pressure: 15 (15 - 15) mmHg
   Total In:
                                                                  2,837 mL
                                                                    726 mL
   PO:
   TF:
   IVF:
                                                                  1,836 mL
                                                                    726 mL
   Blood products:
                                                                    976 mL
   Total out:
                                                                  2,375 mL
                                                                    425 mL
   Urine:
                                                                  1,075 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
                                                                  1,300 mL
   Balance:
                                                                    462 mL
                                                                    301 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 277 (277 - 277) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 22
   PIP: 11 cmH2O
   Plateau: 10 cmH2O
   SpO2: 97%
   ABG: 7.37/44/124/26/0
   Ve: 5.6 L/min
   PaO2 / FiO2: 310
   Physical Examination
   Gen: intubated, sedated, not responding to commands
   HEENT: icteric sclera
   CV: RRR, no m/r/g
   Pulm: CTA anteriorly
   Abd: distended, soft, +ascites, + maculopapular blanchable rash
   Ext: + pitting edema b/l
   Neuro: not following commands
   Labs / Radiology
   68 K/uL
   11.0 g/dL
   154 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.0 mEq/L
   69 mg/dL
   111 mEq/L
   147 mEq/L
   31.5 %
   6.0 K/uL
        [image002.jpg]
                             [**2125-8-29**]  02:25 PM
                             [**2125-8-29**]  06:27 PM
                             [**2125-8-30**]  01:11 AM
                             [**2125-8-30**]  01:20 AM
                             [**2125-8-30**]  07:00 AM
                             [**2125-8-30**]  11:51 AM
                             [**2125-8-30**]  12:27 PM
                             [**2125-8-30**]  06:19 PM
                             [**2125-8-30**]  11:07 PM
                             [**2125-8-31**]  04:42 AM
   WBC
   8.6
   4.9
   6.0
   Hct
   35.8
   36.5
   35.9
   34.6
   35.9
   29.3
   31.0
   31.5
   Plt
   73
   71
   68
   Cr
   0.6
   1.2
   0.9
   1.0
   TCO2
   27
   26
   Glucose
   66
   108
   149
   154
   Other labs: PT / PTT / INR:23.0/49.6/2.2, ALT / AST:[**2-2**], Alk Phos / T
   Bili:43/14.6, Differential-Neuts:64.9 %, Lymph:11.5 %, Mono:8.6 %,
   Eos:14.3 %, Fibrinogen:145 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:3.8
   g/dL, LDH:171 IU/L, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   A/P:  Ms. [**Known lastname 5566**] is a 63 yo female with alcoholic cirrhosis who was
   initially admitted on [**2125-8-19**] for ARF which has improved with albumin
   and holding diuretics, now in MICU for GIB (?hemorroidal).
   .
   1. GIB.  Patient has history of esophageal varices and antral ulcer.
   .EGD showed no evidence of bleeding, but colonoscopy showed bleeding
   hemorrhoids She underwent anoscopy by surgery with suture placement
   followed by packing with some improvement of bleeding.   She is s/p 7
   units PRBCs and s/p 6 units of FFP, but no transfusions in > 48 hours
   .  Hct slightly trending downward yesterday.
    - IV octreotide stopped today per hepatology
   - IVV PPI though this is not consistent with bleed secondary to PUD
   - transfuse to keep Hct > 30
   - will allow INR to rise,but transfuse FFP if there is evidence of
   re-bleed
   - TID hour Hcts,  INR
   - Access: right sided picc, 2 20 guage peripherals, cordis
   - type and cross 4 units
   - hold nadolol for now
   - urgent tips placement vs. local control with surgery (suture/clips)
   versus tamponade with foley if brisk bleed
   - strict bowel rest
   .
   2.  AMS.  Patient remains sedated off all sedation for 24 hours.
   Remains unresponsive likely due to poor hepatic clearance +/-  hepatic
   encephalopthy.
   - disucss with liver re: NGT placement for lactulose
   - will avoid rectal lactulose so that the hemorroid bleeding does not
   recur
   - will remain off all sedation
   .
   3. Alcoholic cirrhosis.  Patient has alcoholic cirrhosis complicated by
   ascites, and encephalopathy in the past.  She requires weekly [**Doctor First Name 3619**].
   MELD as high as 42 last week.  Currently undergoing liver transplant
   eval and hopes to be put on the list in the upcoming days.  Her lack of
   lacutlose due to no PO access may result in encephalopathy given GI
   Bleed.  Para yesterday [**2125-8-30**] showed no SBP.
   - hold nadolol; consider resuming in the future if remains
   hemodynamically stable
   - NGT placement by EGD so that lactulose/refaximin can be given
   - resume vitamin K when PO access is acheived
   - hold diuretics in setting of bleed, but consider resuming when stable
   - aztreonam to cover SBP prophylaxis ( in addition to VAP)
   .
   4.  Respiratory failure.  Patient intubated for airway protection.  Now
   with LLL infiltrate and low grade fever.  Will broaden abx to
   vanco/aztreonam to cover PNA.   Will hold all sedatives and use propfol
   if needed for sedation.  She may have component of hepatic
   encephalopathy which is unlikely to resolve without lactulose.
   - hold all sedatives
   - PS trial if responding to commands
   - NGT placement by surgery for lactulose/rifaximin
   .
   4.  Eosinophilia.  Likely secondary to ceftriaxone drug rash.
   - trend eos
   - d/c ceftriaxone
   5..  ARF.  ARF has improved from Cr of 4.0 to 0.6  today with albumin
   and holding diuretics and 7 units of PRBCs.
   - follow Cr
   - renally dose all meds
   .
   6.  S/p Fevers.  Low grade fever yesterday [**8-30**].  Possibilities include
   VAP (LLL infiltrate on CXR), drug fever (?ceftriaxone).  Para was
   negative for SBP.  Afebrile on Vanco/Aztreonam.
   - vanco/aztreonam for VAP and to cover SBP ppx in setting of GI bleed
   .
   7.  Exfoliative Dermatitis.  Was evaluated by derm and thought to be
   consistent wtih a drug rash.  Now resolving.
   - continue triamcinolone and sarna
   .
   8.  Pulmonary Hypertension.  Pulmonary HTN noted on right heart cath as
   part of transplant workup.  It is most likely related to fluid
   overload, though unable to diurese at current time due to GIB.
   - hold diuresis
   .
   9.  RLE edema.  Patient with Right greater than Left edema.  LENI was
   negative for DVT.
   .
   FEN: PRBC transfusions, replete electrolytes, absolute bowel rest
   .
   Prophylaxis: pneumoboots
   .
   Access: right PICC, 2 20s, corids
   .
   Nutrition:  Patient needs PO access to resume tube feeds.  Will discuss
   NGT placement by GI today.
   .
   Code: full, confirmed with patient, ICU consent signed
   .
   Communication: Patient
   .
   Disposition: pending stability of hct and cessation of GIB
   ICU Care
   Nutrition:
   Comments: Strict bowel rest -- NPO
   Glycemic Control:  Insulin in TPN
   Lines:
   PICC Line - [**2125-8-28**] 04:59 PM
   20 Gauge - [**2125-8-28**] 04:59 PM
   Cordis/Introducer - [**2125-8-28**] 09:00 PM
   Arterial Line - [**2125-8-28**] 10:24 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2125-08-31 10:38:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   toelrating PSV this AM. Still not reliably following commands.
   tolerated paracent yest- 1.3L removed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2125-8-29**] 09:00 PM
   Vancomycin - [**2125-8-31**] 12:00 AM
   Aztreonam - [**2125-8-31**] 07:48 AM
   Infusions:
   Octreotide - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-8-31**] 07:49 AM
   Other medications:
   Protonix, Octreotide, Peridex, vanco IV, aztreonam IV
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-8-31**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.7
   HR: 86 (76 - 89) bpm
   BP: 133/67(93) {108/54(74) - 141/76(103)} mmHg
   RR: 10 (7 - 15) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.8 kg (admission): 68.8 kg
   Bladder pressure: 15 (15 - 15) mmHg
   Total In:
                                                                  2,837 mL
                                                                    966 mL
   PO:
   TF:
   IVF:
                                                                  1,836 mL
                                                                    966 mL
   Blood products:
                                                                    976 mL
   Total out:
                                                                  2,375 mL
                                                                    545 mL
   Urine:
                                                                  1,075 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
                                                                  1,300 mL
   Balance:
                                                                    462 mL
                                                                    421 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 277 (277 - 277) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 22
   PIP: 14 cmH2O
   Plateau: 10 cmH2O
   SpO2: 96%
   ABG: 7.37/44/124/26/0
   Ve: 5.2 L/min
   PaO2 / FiO2: 310
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ), [**Name8 (MD) **] RN poor cough and
   gag
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, Rash: abdominal erythematous patches, blanching,
   Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.0 g/dL
   68 K/uL
   154 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.0 mEq/L
   69 mg/dL
   111 mEq/L
   147 mEq/L
   31.5 %
   6.0 K/uL
        [image002.jpg]
                             [**2125-8-29**]  02:25 PM
                             [**2125-8-29**]  06:27 PM
                             [**2125-8-30**]  01:11 AM
                             [**2125-8-30**]  01:20 AM
                             [**2125-8-30**]  07:00 AM
                             [**2125-8-30**]  11:51 AM
                             [**2125-8-30**]  12:27 PM
                             [**2125-8-30**]  06:19 PM
                             [**2125-8-30**]  11:07 PM
                             [**2125-8-31**]  04:42 AM
   WBC
   8.6
   4.9
   6.0
   Hct
   35.8
   36.5
   35.9
   34.6
   35.9
   29.3
   31.0
   31.5
   Plt
   73
   71
   68
   Cr
   0.6
   1.2
   0.9
   1.0
   TCO2
   27
   26
   Glucose
   66
   108
   149
   154
   Other labs: PT / PTT / INR:23.0/49.6/2.2, ALT / AST:[**2-2**], Alk Phos / T
   Bili:43/14.6, Differential-Neuts:69.2 %, Lymph:11.2 %, Mono:8.4 %,
   Eos:10.8 %, Fibrinogen:145 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:3.8
   g/dL, LDH:171 IU/L, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Imaging: [**8-31**] CXr-increased aeration L side, persistent L-sided
   infiltrate vs effusion
   Microbiology: all neg or pending
   Assessment and Plan
   63 yo female with EtOH cirrhosis (undergoing pretransplant eval),
   admitted initially with  renal failure which improved with colloids,
   also drug
related rash. Was undergoing transplant eval, when
   yesterday she developed GI bleed/acute blood loss anemia. Stable
   following endoscopy showing hemorrhoids
   GI bleed/acute blood loss anemia: Lower GI bleed due to hemorrhoids by
   colonoscopy. Has evidence of diffuse varices also, though these were
   not actively bleeding by
scope 3d ago
   -received 8 units blood and 7 units ffp, 2u cryo
   -Rectal packing removed 3d ago by surgery- will monitor for worsening
   bleeding. They may try to further contain locally by balloon tamponade
   -Serial hct
   -transfuse as needed for Hct< 30, or more frequently as needed
   dependent  on rapidity of bleeding and hemodynamic status
   -Transplant surgery continuing to follow- may do further packing
   Fevers yesterday: low grade yesterday; no clear source identified but
   treating for presumed VAP
   -broaden ABX to vanco + aztreonam
   -narrow or dc in next 24-48h if no evidence of infxn
   EtOH cirrhosis:
   -Diuretics held due to GI bleed
   -Clarify transplant status with liver team
   Obtundation: multifactorial, off meds for encephalopathy, GIB
   exacerbating, prior Versed for sedation
   -no sedatives
   -Off lactulose for the time being as pt unable to take po. Will ask GI/
   [**Doctor First Name **] svce to assist w/ placing feeding tube as we will need to address
   Acute respiratory failure: intubated electively due to massive
   resuscitation. Adequate oxygenation and ventilation on current settings
   -mental status (poor cough and gag) now limiting
   -PSV trial today
   Acute renal failure: had resolved prior to MICU transfer. Continue to
   trend
   Pulm HTN secondary to LV overload: no active intervention given pt
   acute issues
   ICU Care
   Nutrition:
   Comments: npo
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2125-8-28**] 04:59 PM
   20 Gauge - [**2125-8-28**] 04:59 PM
   Cordis/Introducer - [**2125-8-28**] 09:00 PM
   Arterial Line - [**2125-8-28**] 10:24 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I was physically present with the resident team on this date for
   discussion of the above history, exam and assessment and plan with
   which I agree.  I independently examined the patient and would add the
   following comments: 63 yo female with alcoholic cirrhosis undergoing
   transplant w/u, transferred to MICU [**8-28**] for GI bleed/acute blood loss
   anemia from hemorrhoids requiring massive resuscitation- bleeding
   apparently ceased following local suture/stapling/packing by surgery.
   Major issues include:
   1. Acute respiratory failure: intubated electively for massive
   resuscitation. Marginal mental status the major barrier to extubation.
   Off sedatives since yesterday, will continue to monitor neurological
   status. Once more [**Month/Year (2) **] will attempt SBT+ extubation. If agitation
   develops before she is [**Last Name (LF) **], [**First Name3 (LF) **] temporize with propofol.
   2. GI bleed/acute blood loss anemia: Has not required transfusions
   yesterday or today. Octeotride stopped today, remains on IV PPI
   3. EtOH cirrhosis: nadolol and diuretics held. Intent was initially for
   pt to be extubated quickly and take po lactulose, but she has been slow
   to wake up. Will talk to liver team re: NG or OGT placement for
   lactulose.
   4. Low grade fevers: Possible VAP on CXR, now on Vanc/Aztreonam. Will
   re-adjust depending on recovery of micro data within the next 24-48
   hours.
   Pt is critically ill. Total time spent: 40 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2125-8-31**] 20:06 ------

2125-09-01 07:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2125-8-31**].
   - Patient more awake and biting on the tube, but not following all
   commands
   - propofol started for sedation
   - GI came by to place NGT, but have planned to do this tomorrow instead
   - Hct trending back up without any transfusions: 31.5 --> 32.6 --> 34.5
   - INR drifting back up
   - PICC nurse pulled back the PICC line 5 cm
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2125-8-29**] 09:00 PM
   Vancomycin - [**2125-9-1**] 12:00 AM
   Aztreonam - [**2125-9-1**] 12:00 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-8-31**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-1**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.1
   HR: 64 (64 - 101) bpm
   BP: 138/72(99) {129/65(90) - 169/88(123)} mmHg
   RR: 13 (7 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.8 kg (admission): 68.8 kg
             Total In:
                                                                  2,126 mL
                                                                    751 mL
   PO:
             TF:
   IVF:
                                                                  2,126 mL
                                                                    751 mL
   Blood products:
   Total out:
                                                                  1,495 mL
                                                                    420 mL
   Urine:
                                                                  1,495 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    631 mL
                                                                    331 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 382 (382 - 656) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 23
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: 7.40/41/102/26/0
   Ve: 5.4 L/min
   PaO2 / FiO2: 255
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   87 K/uL
   11.7 g/dL
   153 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.8 mEq/L
   56 mg/dL
   116 mEq/L
   151 mEq/L
   36.0 %
   6.6 K/uL
        [image002.jpg]
                             [**2125-8-30**]  11:51 AM
                             [**2125-8-30**]  12:27 PM
                             [**2125-8-30**]  06:19 PM
                             [**2125-8-30**]  11:07 PM
                             [**2125-8-31**]  04:42 AM
                             [**2125-8-31**]  10:41 AM
                             [**2125-8-31**]  12:30 PM
                             [**2125-8-31**]  06:03 PM
                             [**2125-8-31**]  11:00 PM
                             [**2125-9-1**]  04:29 AM
   WBC
   4.9
   6.0
   6.6
   Hct
   35.9
   29.3
   31.0
   31.5
   32.6
   34.5
   33.9
   36.0
   Plt
   71
   68
   87
   Cr
   1.2
   0.9
   1.0
   0.8
   TCO2
   26
   26
   Glucose
   108
   149
   154
   153
   Other labs: PT / PTT / INR:25.2/51.5/2.4, ALT / AST:13/27, Alk Phos / T
   Bili:54/12.8, Differential-Neuts:70.7 %, Lymph:11.9 %, Mono:7.2 %,
   Eos:9.9 %, Fibrinogen:136 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:4.1
   g/dL, LDH:194 IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 5566**] is a 63 yo female with alcoholic cirrhosis who was
   initially admitted on [**2125-8-19**] for ARF which has improved with albumin
   and holding diuretics, now in MICU for GIB (?hemorroidal).
   .
   1. GIB.  Patient has history of esophageal varices and antral ulcer.
   .EGD showed no evidence of bleeding, but colonoscopy showed bleeding
   hemorrhoids She underwent anoscopy by surgery with suture placement
   followed by packing with some improvement of bleeding.   She is s/p 7
   units PRBCs and s/p 6 units of FFP, but no transfusions in > 48 hours
   .  Hct slightly trending downward yesterday.
    - IV octreotide stopped today per hepatology
   - IVV PPI though this is not consistent with bleed secondary to PUD
   - transfuse to keep Hct > 30
   - will allow INR to rise,but transfuse FFP if there is evidence of
   re-bleed
   - TID hour Hcts,  INR
   - Access: right sided picc, 2 20 guage peripherals, cordis
   - type and cross 4 units
   - hold nadolol for now
   - urgent tips placement vs. local control with surgery (suture/clips)
   versus tamponade with foley if brisk bleed
   - strict bowel rest
   .
   2.  AMS.  Patient remains sedated off all sedation for 24 hours.
   Remains unresponsive likely due to poor hepatic clearance +/-  hepatic
   encephalopthy.
   - disucss with liver re: NGT placement for lactulose
   - will avoid rectal lactulose so that the hemorroid bleeding does not
   recur
   - will remain off all sedation
   .
   3. Alcoholic cirrhosis.  Patient has alcoholic cirrhosis complicated by
   ascites, and encephalopathy in the past.  She requires weekly [**Doctor First Name 3619**].
   MELD as high as 42 last week.  Currently undergoing liver transplant
   eval and hopes to be put on the list in the upcoming days.  Her lack of
   lacutlose due to no PO access may result in encephalopathy given GI
   Bleed.  Para yesterday [**2125-8-30**] showed no SBP.
   - hold nadolol; consider resuming in the future if remains
   hemodynamically stable
   - NGT placement by EGD so that lactulose/refaximin can be given
   - resume vitamin K when PO access is acheived
   - hold diuretics in setting of bleed, but consider resuming when stable
   - aztreonam to cover SBP prophylaxis ( in addition to VAP)
   .
   4.  Respiratory failure.  Patient intubated for airway protection.  Now
   with LLL infiltrate and low grade fever.  Will broaden abx to
   vanco/aztreonam to cover PNA.   Will hold all sedatives and use propfol
   if needed for sedation.  She may have component of hepatic
   encephalopathy which is unlikely to resolve without lactulose.
   - hold all sedatives
   - PS trial if responding to commands
   - NGT placement by surgery for lactulose/rifaximin
   .
   4.  Eosinophilia.  Likely secondary to ceftriaxone drug rash.
   - trend eos
   - d/c ceftriaxone
   5..  ARF.  ARF has improved from Cr of 4.0 to 0.6  today with albumin
   and holding diuretics and 7 units of PRBCs.
   - follow Cr
   - renally dose all meds
   .
   6.  S/p Fevers.  Low grade fever yesterday [**8-30**].  Possibilities include
   VAP (LLL infiltrate on CXR), drug fever (?ceftriaxone).  Para was
   negative for SBP.  Afebrile on Vanco/Aztreonam.
   - vanco/aztreonam for VAP and to cover SBP ppx in setting of GI bleed
   .
   7.  Exfoliative Dermatitis.  Was evaluated by derm and thought to be
   consistent wtih a drug rash.  Now resolving.
   - continue triamcinolone and sarna
   .
   8.  Pulmonary Hypertension.  Pulmonary HTN noted on right heart cath as
   part of transplant workup.  It is most likely related to fluid
   overload, though unable to diurese at current time due to GIB.
   - hold diuresis
   .
   9.  RLE edema.  Patient with Right greater than Left edema.  LENI was
   negative for DVT.
   .
   FEN: PRBC transfusions, replete electrolytes, absolute bowel rest
   .
   Prophylaxis: pneumoboots
   .
   Access: right PICC, 2 20s, corids
   .
   Nutrition:  Patient needs PO access to resume tube feeds.  Will discuss
   NGT placement by GI today.
   .
   Code: full, confirmed with patient, ICU consent signed
   .
   Communication: Patient
   .
   Disposition: pending stability of hct and cessation of GIB
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2125-8-31**] 01:20 PM
   Cordis/Introducer - [**2125-8-31**] 01:20 PM
   PICC Line - [**2125-8-31**] 01:20 PM
   20 Gauge - [**2125-8-31**] 01:20 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2125-09-01 08:27:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   62 yo alcoholic cirrhotic, not listed on transplant, transferred from
   floor for rectal bleeding. Intubated in anticipation of large volume
   resusc, had anoscopy, stable after 8 units. Course complicated by
   difficulty waking up from sedation. Began to wake up overnight. Hct
   stable and trending up, no blood products in 2 days
   24 Hour Events:
   Agitation
 propofol overnight intermittently
   Awaiting dobhoff post pyloric placement by GI
   On AC overnight to rest her/and receipt of propofol
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2125-9-1**] 12:00 AM
   Aztreonam - [**2125-9-1**] 12:00 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) IV - [**2125-8-31**] 08:00 PM
   Other medications:
   NO PO MEDS
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-1**] 08:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.1
   HR: 64 (64 - 101) bpm
   BP: 138/72(99) {129/65(90) - 169/88(123)} mmHg
   RR: 13 (7 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.8 kg (admission): 68.8 kg
             Total In:
                                                                  2,126 mL
                                                                    791 mL
   PO:
             TF:
   IVF:
                                                                  2,126 mL
                                                                    791 mL
   Blood products:
   Total out:
                                                                  1,495 mL
                                                                    420 mL
   Urine:
                                                                  1,495 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    631 mL
                                                                    371 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 382 (382 - 656) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 6 cmH2O
   FiO2: 40%
   RSBI: 23
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.40/41/102/26/0
   Ve: 5.4 L/min
   PaO2 / FiO2: 255
   Physical Examination
   Not responsive to voice at this time
   HEENT
 icteric sclerae, PERRL
   RRR
   Rhonchi, scattered, no wheeze
   Ascites, +BS
   2+ pitting edema
   Labs / Radiology
   11.7 g/dL
   87 K/uL
   153 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.8 mEq/L
   56 mg/dL
   116 mEq/L
   151 mEq/L
   36.0 %
   6.6 K/uL
        [image002.jpg]
                             [**2125-8-30**]  11:51 AM
                             [**2125-8-30**]  12:27 PM
                             [**2125-8-30**]  06:19 PM
                             [**2125-8-30**]  11:07 PM
                             [**2125-8-31**]  04:42 AM
                             [**2125-8-31**]  10:41 AM
                             [**2125-8-31**]  12:30 PM
                             [**2125-8-31**]  06:03 PM
                             [**2125-8-31**]  11:00 PM
                             [**2125-9-1**]  04:29 AM
   WBC
   4.9
   6.0
   6.6
   Hct
   35.9
   29.3
   31.0
   31.5
   32.6
   34.5
   33.9
   36.0
   Plt
   71
   68
   87
   Cr
   1.2
   0.9
   1.0
   0.8
   TCO2
   26
   26
   Glucose
   108
   149
   154
   153
   Other labs: PT / PTT / INR:25.2/51.5/2.4, ALT / AST:13/27, Alk Phos / T
   Bili:54/12.8 (trending down, this is her baseline),
   Differential-Neuts:70.7 %, Lymph:11.9 %, Mono:7.2 %, Eos:9.9 %,
   Fibrinogen:136 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:4.1 g/dL, LDH:194
   IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   CXR
 LLL infiltrate remains, but improved overall since [**8-28**]. Low lung
   volumes. Trach in good place.
   MICRO
 deep suction
 no growth
   Blood cultures NGTD [**8-30**]
   Para fluid - NGTD
   Assessment and Plan
   63 yo female with EtOH cirrhosis (undergoing pretransplant eval),
   admitted initially with  renal failure which improved with colloids,
   also drug
related rash. Was undergoing transplant eval, when she
   developed GI bleed/acute blood loss anemia. Stable following endoscopy
   showing hemorrhoids
   1. GI bleed/acute blood loss anemia: Lower GI bleed due to hemorrhoids
   by colonoscopy. Has evidence of diffuse varices also, though these were
   not actively bleeding by EGD on this admission
   -received 8 units blood and 7 units ffp, 2u cryo
   -Rectal packing removed 3d ago by surgery- will monitor for worsening
   bleeding. They may try to further contain locally by balloon tamponade
   -Serial hct
   -transfuse as needed for Hct< 30, or more frequently as needed
   dependent  bleeding and hemodynamic stability
   -Transplant surgery continuing to follow; no further packing necessary
   given cessation of bleeding
   2. Hypernatremia
 no PO access at this time, GI to place post pyloric
   dobhoff. D5W by IV
   3. Fevers [**8-30**], LLL infiltrate: low grade yesterday; no clear source
   identified but treating for presumed VAP
   -broaden ABX to vanco + aztreonam; drug reaction to CTX may be
   responsible for fevers
   -narrow or dc in next 24h if no evidence of infxn
   4. EtOH cirrhosis:
   -Diuretics held due to GI bleed
 restart nadalol today; hold on
   lactulose for now, until dobhoff in place
 plan to restart diuretics
   tomorrow if hemodynamically stable overnight
   -Clarify transplant status with liver team
   5. Obtundation: multifactorial, off meds for encephalopathy, GIB
   exacerbating, prior Versed for sedation
 woke up briefly yesterday
   -no sedatives
   -Off lactulose for the time being as pt unable to take po. GI to assist
   w/ placing feeding tube today
   6. Acute respiratory failure: intubated electively due to massive
   resuscitation. Adequate oxygenation and ventilation on pressure
   support. After dobhoff in place, will turn off prop and wean to
   extubate today or tomorrow if mental status is adequate.
   7. Acute renal failure: had resolved prior to MICU transfer. Continue
   to trend
   8. Pulm HTN secondary to LV overload: no active intervention given pt
   acute issues
   ICU Care
   Nutrition:
   Glycemic Control:  none needed
   Lines:
   Arterial Line - [**2125-8-31**] 01:20 PM
   Cordis/Introducer - [**2125-8-31**] 01:20 PM
   PICC Line - [**2125-8-31**] 01:20 PM
   20 Gauge - [**2125-8-31**] 01:20 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: ppi IV BID
   VAP: on treatment, oral care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Pt is critically ill.
   Total time spent: 30 minutes

2125-09-02 07:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [**9-1**]
   -liver placed post pyloric feeding tube, lactulose and po meds resumed
   -got vanc approval for vap course, ?Lbase PNA/VAP
   -attempted to wean vent settings, but too sedated
   -resumed nadolol at 10mg daily
   -nutrition c/s for tube feeds, started free water flushes
   24 Hour Events:
 ENDOSCOPY - At [**2125-9-1**] 03:45 PM
   DONE FOR FEEDING TUBE PLACEMENT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2125-9-2**] 12:00 AM
   Aztreonam - [**2125-9-2**] 12:00 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-9-1**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-2**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.9
C (96.6
   HR: 67 (62 - 78) bpm
   BP: 138/76(100) {133/65(92) - 157/90(119)} mmHg
   RR: 11 (8 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.8 kg (admission): 68.8 kg
             Total In:
                                                                  2,704 mL
                                                                    589 mL
   PO:
             TF:
   IVF:
                                                                  2,424 mL
                                                                    439 mL
   Blood products:
   Total out:
                                                                  1,265 mL
                                                                    320 mL
   Urine:
                                                                  1,265 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,439 mL
                                                                    269 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 25
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: ///25/
   Ve: 5.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   74 K/uL
   12.3 g/dL
   106 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.6 mEq/L
   47 mg/dL
   113 mEq/L
   147 mEq/L
   36.9 %
   7.1 K/uL
        [image002.jpg]
                             [**2125-8-30**]  06:19 PM
                             [**2125-8-30**]  11:07 PM
                             [**2125-8-31**]  04:42 AM
                             [**2125-8-31**]  10:41 AM
                             [**2125-8-31**]  12:30 PM
                             [**2125-8-31**]  06:03 PM
                             [**2125-8-31**]  11:00 PM
                             [**2125-9-1**]  04:29 AM
                             [**2125-9-1**]  04:57 PM
                             [**2125-9-2**]  03:48 AM
   WBC
   4.9
   6.0
   6.6
   7.1
   Hct
   29.3
   31.0
   31.5
   32.6
   34.5
   33.9
   36.0
   39.0
   36.9
   Plt
   71
   68
   87
   74
   Cr
   1.2
   0.9
   1.0
   0.8
   1.0
   0.9
   TCO2
   26
   Glucose
   108
   149
   154
   153
   109
   106
   Other labs: PT / PTT / INR:26.5/52.2/2.6, ALT / AST:14/27, Alk Phos / T
   Bili:60/12.1, Differential-Neuts:70.7 %, Lymph:11.9 %, Mono:7.2 %,
   Eos:9.9 %, Fibrinogen:136 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:3.9
   g/dL, LDH:191 IU/L, Ca++:9.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 5566**] is a 63 yo female with alcoholic cirrhosis who was
   initially admitted on [**2125-8-19**] for ARF which has improved with albumin
   and holding diuretics, now in MICU for GIB (?hemorroidal).
   .
   1. GIB.  Patient has history of esophageal varices and antral ulcer.
   .EGD showed no evidence of bleeding, but colonoscopy showed bleeding
   hemorrhoids She underwent anoscopy by surgery with suture placement
   followed by packing with some improvement of bleeding.   She is s/p 7
   units PRBCs and s/p 6 units of FFP, but no transfusions in > 72 hours.
   Hct stable.
   - IVV PPI though this is not consistent with bleed secondary to PUD
   - transfuse to keep Hct > 30
   - will allow INR to rise,but transfuse FFP if there is evidence of
   re-bleed
   - TID hour Hcts,  INR
   - Access: right sided picc, 2 20 guage peripherals, cordis
   - resume low dose nadolol
   - urgent tips placement vs. local control with surgery (suture/clips)
   versus tamponade with foley if brisk bleed
   - monitoring for signs of bleeding in setting of resuming tube feeds
   today
   .
   2.  AMS.  Patient remains sedated off all sedation for 36  hours, but
   is overall improved.  AMS likely due to poor hepatic clearance of
   sedatives +/-  hepatic encephalopthy.
   - d/c propofol after NGTplacement by GI
   - resume lactulose/rifaximin once NGT placed
   - propofol for now until ready to extubate
   .
   3. Alcoholic cirrhosis.  Patient has alcoholic cirrhosis complicated by
   ascites, and encephalopathy in the past.  She requires weekly [**Doctor First Name 3619**].
   MELD as high as 42 last week.  Currently undergoing liver transplant
   eval and hopes to be put on the list in the upcoming days.  Her lack of
   lacutlose due to no PO access may result in encephalopathy given GI
   Bleed.  Para yesterday [**2125-8-30**] showed no SBP.
   - resume low dose nadolol
   - NGT placement by EGD so that lactulose/refaximin can be given
   - resume vitamin K when PO access is acheived
   - hold diuretics in setting of bleed, but consider resuming when stable
   - aztreonam to cover SBP prophylaxis ( in addition to VAP)
   .
   4.  Respiratory failure.  Patient intubated for airway protection.  Now
   with LLL infiltrate.  Will broaden abx to vanco/aztreonam to cover
   PNA.   Will hold all sedatives and use propfol until ready to
   extubate.  She may have component of hepatic encephalopathy which is
   unlikely to resolve without lactulose.
   - hold fent/versed and use propofol for sedation until ready to
   extubate
   - NGT placement by GI  for lactulose/rifaximin
   .
   4.  Eosinophilia.  Likely secondary to ceftriaxone drug rash.
   - trend eos
   - d/c ceftriaxone
   5..  ARF.  ARF has improved from Cr of 4.0 to 0.8  today with albumin
   and holding diuretics and 7 units of PRBCs a few days back..
   - follow Cr
   - renally dose all meds
   .
   6.  S/p Fevers.  Low grade fever [**8-30**].  Possibilities include VAP (LLL
   infiltrate on CXR), drug fever (?ceftriaxone).  Para was negative for
   SBP.  Afebrile on Vanco/Aztreonam.
   - vanco/aztreonam for VAP and to cover SBP ppx in setting of GI bleed
   .
   7.  Exfoliative Dermatitis.  Was evaluated by derm and thought to be
   consistent wtih a drug rash.  Now resolving.
   - continue triamcinolone and sarna
   .
   8.  Pulmonary Hypertension.  Pulmonary HTN noted on right heart cath as
   part of transplant workup.  It is most likely related to fluid
   overload, though unable to diurese at current time due to GIB.
   - hold diuresis
   .
   9.  RLE edema.  Patient with Right greater than Left edema.  LENI was
   negative for DVT.
   .
   FEN: PRBC transfusions, replete electrolytes, absolute bowel rest
   .
   Prophylaxis: pneumoboots
   .
   Access: right PICC, 2 20s, corids
   .
   Nutrition:  Patient needs PO access to resume tube feeds.  NGT
   placement by GI today.
   .
   Code: full, confirmed with patient, ICU consent signed
   .
   Communication: Patient
   .
   Disposition: pending stability of hct and cessation of GIB
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2125-8-31**] 01:20 PM
   Cordis/Introducer - [**2125-8-31**] 01:20 PM
   PICC Line - [**2125-8-31**] 01:20 PM
   20 Gauge - [**2125-8-31**] 01:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-09-02 08:22:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 ENDOSCOPY - At [**2125-9-1**] 03:45 PM
   DONE FOR FEEDING TUBE PLACEMENT
   Lactulose and PO meds were resumed
   Propofol 10 currently
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2125-9-2**] 12:00 AM
   Aztreonam - [**2125-9-2**] 08:12 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-9-2**] 08:13 AM
   Other medications:
   Folic acid
   Ursodiol
   Iron
   Thiamine
   Zinc
   Vitamin K daily
   Lactulose
   Sevelamer
   Vitamin D
   Triamcinilone
   Bicarb
   PPI
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-2**] 08:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (97
   HR: 69 (62 - 78) bpm
   BP: 139/76(101) {133/65(92) - 157/90(119)} mmHg
   RR: 10 (8 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.8 kg (admission): 68.8 kg
             Total In:
                                                                  2,704 mL
                                                                    911 mL
   PO:
             TF:
   IVF:
                                                                  2,424 mL
                                                                    511 mL
   Blood products:
   Total out:
                                                                  1,265 mL
                                                                    380 mL
   Urine:
                                                                  1,265 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,439 mL
                                                                    531 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 25
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: ///25/
   Ve: 5.1 L/min
   Physical Examination
   Icteric, PERRL
   RRR
   Lungs- CTAB no wheeze/rhonchi
   Jaundiced, resolving drug rash
   2+ edema
   Labs / Radiology
   12.3 g/dL
   74 K/uL
   106 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.6 mEq/L
   47 mg/dL
   113 mEq/L
   147 mEq/L
   36.9 %
   7.1 K/uL
        [image002.jpg]
                             [**2125-8-30**]  06:19 PM
                             [**2125-8-30**]  11:07 PM
                             [**2125-8-31**]  04:42 AM
                             [**2125-8-31**]  10:41 AM
                             [**2125-8-31**]  12:30 PM
                             [**2125-8-31**]  06:03 PM
                             [**2125-8-31**]  11:00 PM
                             [**2125-9-1**]  04:29 AM
                             [**2125-9-1**]  04:57 PM
                             [**2125-9-2**]  03:48 AM
   WBC
   4.9
   6.0
   6.6
   7.1
   Hct
   29.3
   31.0
   31.5
   32.6
   34.5
   33.9
   36.0
   39.0
   36.9
   Plt
   71
   68
   87
   74
   Cr
   1.2
   0.9
   1.0
   0.8
   1.0
   0.9
   TCO2
   26
   Glucose
   108
   149
   154
   153
   109
   106
   Other labs: PT / PTT / INR:26.5/52.2/2.6, ALT / AST:14/27, Alk Phos / T
   Bili:60/12.1, Differential-Neuts:70.7 %, Lymph:11.9 %, Mono:7.2 %,
   Eos:9.9 %, Fibrinogen:136 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:3.9
   g/dL, LDH:191 IU/L, Ca++:9.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   No CXR today.
   Assessment and Plan
   63 yo female with EtOH cirrhosis (undergoing pretransplant eval),
   admitted initially with renal failure which improved with colloids,
   also drug
related rash. Was undergoing transplant eval, when she
   developed GI bleed/acute blood loss anemia. Stable following endoscopy
   showing hemorrhoids
   1. GI bleed/acute blood loss anemia: Lower GI bleed due to hemorrhoids
   by colonoscopy. Has evidence of diffuse varices also, though these were
   not actively bleeding by EGD on this admission
   -received 8 units blood and 7 units ffp, 2u cryo
 not required
   -Rectal packing removed 3d ago by surgery- will monitor for worsening
   bleeding. They may try to further contain locally by balloon tamponade
   -transfuse as needed for Hct< 30, or more frequently as needed
   dependent  bleeding and hemodynamic stability
   -Transplant surgery continuing to follow; no further packing necessary
   given cessation of bleeding
   2. Hypernatremia
 no PO access at this time, GI to place post pyloric
   dobhoff. D5W by IV
   3. Fevers [**8-30**], LLL infiltrate: low grade yesterday; no clear source
   identified but treating for presumed VAP
   -no positive cultures, afebrile
 will d/c aztreonam and leave on SBP
   prophy
   4. EtOH cirrhosis:
   -nadolol restarted yesterday, restart diuretics today
   -on chronic vitamin K
 can restart today
   -Clarify transplant status with liver team
 insurance issue
   5. Obtundation: multifactorial, off meds for encephalopathy, GIB
   exacerbating, prior Versed for sedation
 woke up briefly yesterday
   -no sedatives
   - restarted lactulose
   6. Acute respiratory failure: intubated electively due to expectation
   of massive resuscitation. Adequate oxygenation and ventilation on
   pressure support. After dobhoff in place, will turn off prop and wean
   to extubate today or tomorrow if mental status is adequate.
   7. Acute renal failure: had resolved prior to MICU transfer. Continue
   to trend
   8. Pulm HTN secondary to LV overload: no active intervention given pt
   acute issues
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2125-8-31**] 01:20 PM
   Cordis/Introducer - [**2125-8-31**] 01:20 PM
   PICC Line - [**2125-8-31**] 01:20 PM
   20 Gauge - [**2125-8-31**] 01:20 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: ppi [**Hospital1 7**]
   VAP: HOB>30
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Pt is critically ill.
   Total time spent: 30 minutes

2125-09-03 07:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: GI bleed
   24 Hour Events:
   [**2125-9-2**]
   - propofol turned off
   - more awake, following simple commands
   - PS weaned to 15/5, but Vt were in 250s, so had a hard time getting
   much further down than that until overnight were able to get to [**6-12**]
   this morning
   - IV PPI switched to PO
   - ran about even in AM after 20 mg IV lasix, given second dose of IV
   lasix in the evening, didn't respond, was about 300 cc positive for the
   24 hrs
   - stopped vanco, continued aztreonam for SBP ppx, liver thinks it's ok
   to consider switching to cipro for narrower coverage
   - tube feeds started per nutrition recs
   - started having lactulose stools, no blood seen
   - tube feeds stopped this morning in case extubation possible
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2125-9-2**] 12:00 AM
   Aztreonam - [**2125-9-3**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-9-2**] 08:13 AM
   Furosemide (Lasix) - [**2125-9-2**] 09:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-3**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36
C (96.8
   HR: 77 (61 - 90) bpm
   BP: 140/72(96) {138/72(96) - 160/88(116)} mmHg
   RR: 16 (10 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.8 kg (admission): 68.8 kg
             Total In:
                                                                  1,906 mL
                                                                    504 mL
   PO:
             TF:
                                                                     70 mL
                                                                    107 mL
   IVF:
                                                                    886 mL
                                                                    197 mL
   Blood products:
   Total out:
                                                                  1,560 mL
                                                                    475 mL
   Urine:
                                                                  1,460 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
                                                                    100 mL
                                                                    100 mL
   Balance:
                                                                    346 mL
                                                                     29 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 405 (301 - 464) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 44
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: 7.40/38/98.[**Numeric Identifier 176**]/23/0
   Ve: 6.7 L/min
   PaO2 / FiO2: 245
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   93 K/uL
   13.0 g/dL
   140 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.3 mEq/L
   45 mg/dL
   111 mEq/L
   146 mEq/L
   40.1 %
   9.4 K/uL
        [image002.jpg]
                             [**2125-8-31**]  10:41 AM
                             [**2125-8-31**]  12:30 PM
                             [**2125-8-31**]  06:03 PM
                             [**2125-8-31**]  11:00 PM
                             [**2125-9-1**]  04:29 AM
                             [**2125-9-1**]  04:57 PM
                             [**2125-9-2**]  03:48 AM
                             [**2125-9-2**]  05:59 PM
                             [**2125-9-3**]  03:50 AM
                             [**2125-9-3**]  04:01 AM
   WBC
   6.6
   7.1
   9.4
   Hct
   32.6
   34.5
   33.9
   36.0
   39.0
   36.9
   40.1
   Plt
   87
   74
   93
   Cr
   0.8
   1.0
   0.9
   0.9
   TCO2
   26
   23
   24
   Glucose
   153
   109
   106
   140
   Other labs: PT / PTT / INR:26.5/53.7/2.6, ALT / AST:16/30, Alk Phos / T
   Bili:79/12.7, Differential-Neuts:70.7 %, Lymph:11.9 %, Mono:7.2 %,
   Eos:9.9 %, Fibrinogen:136 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:3.9
   g/dL, LDH:238 IU/L, Ca++:9.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 5566**] is a 63 yo female with alcoholic cirrhosis who was
   initially admitted on [**2125-8-19**] for ARF which has improved with albumin
   and holding diuretics, now in MICU for GIB (?hemorroidal).
   .
   1. GIB.  Patient has history of esophageal varices and antral ulcer.
   .EGD showed no evidence of bleeding, but colonoscopy showed bleeding
   hemorrhoids She underwent anoscopy by surgery with suture placement
   followed by packing with some improvement of bleeding.   She is s/p 7
   units PRBCs and s/p 6 units of FFP, but no transfusions in > 72 hours.
   Hct stable.
   - switched IV PPI to PO today
   - transfuse to keep Hct > 30
   - will allow INR to rise,but transfuse FFP if there is evidence of
   re-bleed
   - vit K daily
   - Access: right sided picc, 2 20 guage peripherals, cordis
 consider
   removing cordis, may give FFP pre-removal
   - resume low dose nadolol
   - urgent tips placement vs. local control with surgery (suture/clips)
   versus tamponade with foley if brisk bleed
   - monitoring for signs of bleeding in setting of resuming tube feeds
   today
   .
   2.  AMS.  Patient remains sedated off all sedation for 36  hours, but
   is overall improved.  AMS likely due to poor hepatic clearance of
   sedatives +/-  hepatic encephalopthy.
   - hold propofol as much as possible
   - lactulose/rifaxamin restarted yesterday
    - propofol for now until ready to extubate
   .
   Nutrition: patient now has OG tube placed under guidance by GI,
   starting tube feeds today, rectal packing gone; surgery aware that
   patient will be fed today
   .
   3. Alcoholic cirrhosis.  Patient has alcoholic cirrhosis complicated by
   ascites, and encephalopathy in the past.  She requires weekly [**Doctor First Name 3619**].
   MELD as high as 42 last week.  Currently undergoing liver transplant
   eval and hopes to be put on the list in the upcoming days.
   - cont low dose nadolol
   - cont lactulose/rifaximin
   - aztreonam to cover SBP prophylaxis
 will try to narrow today,
   limited by allergies
   .
   Respiratory failure.  Patient intubated for airway protection.  Now
   with LLL infiltrate.  Has not spiked fever or had a white count.  Do
   not think she necessarily had a pneumonia.
   - stopping vanco today
   - cont aztreonam for SBP, although will try to narrow after taking with
   GI
   - improve MS prior to extubation, is tolerating PS well
   .
   4.  Eosinophilia.  Likely secondary to ceftriaxone drug rash.
   - trend eos
   - d/c ceftriaxone
   5..  ARF.  ARF has improved from Cr of 4.0 to 0.8  today with albumin
   and holding diuretics and 7 units of PRBCs a few days back, continue to
   monitor.
   - follow Cr
   - renally dose all meds
   .
   6.  S/p Fevers.  Low grade fever [**8-30**].  Possibilities include VAP (LLL
   infiltrate on CXR), drug fever (?ceftriaxone).  Para was negative for
   SBP.  Afebrile on Vanco/Aztreonam.
   - stopping vanco, continue to monitor today
   .
   7.  Exfoliative Dermatitis.  Was evaluated by derm and thought to be
   consistent wtih a drug rash.  Now resolving.
   - continue triamcinolone and sarna
   .
   8.  Pulmonary Hypertension.  Pulmonary HTN noted on right heart cath as
   part of transplant workup.  It is most likely related to fluid
   overload, though unable to diurese at current time due to GIB.
   - hold diuresis
   .
   9.  RLE edema.  Patient with Right greater than Left edema.  LENI was
   negative for DVT.
   .
   FEN: PRBC transfusions, replete electrolytes, absolute bowel rest
   .
   Prophylaxis: pneumoboots
   .
   Access: right PICC, 2 20s, corids
   .
   Nutrition:  NGT, TFs starting today
   .
   Code: full, confirmed with patient, ICU consent signed
   .
   Communication: Patient
   .
   Disposition: pending stability of hct and cessation of GIB
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2125-8-31**] 01:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-09-03 10:21:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   On intermittent propofol for agitation
   Tolerated PS 15/5 yesterday
   PPI switched from IV to po
   Attempted diuresis, but still net positive intake
   Vanco dc
   Aztreonam maintained for SBP prophylaxis
   Stooling
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2125-9-2**] 12:00 AM
   Aztreonam - [**2125-9-3**] 08:45 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2125-9-2**] 09:07 PM
   Propofol - [**2125-9-3**] 08:15 AM
   Other medications: folic acid, thiamine, zinc sulfate, vitamin K,
   laculose TID; renagel , sodium bicarbonate, chlorhexidine, nadolol,
   free water 200 cc q6, lansoprazole, ferrous sulfate
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-3**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.9
   HR: 72 (64 - 90) bpm
   BP: 132/73(94) {132/71(94) - 160/88(116)} mmHg
   RR: 13 (11 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.8 kg (admission): 68.8 kg
             Total In:
                                                                  1,906 mL
                                                                    730 mL
   PO:
             TF:
                                                                     70 mL
                                                                    107 mL
   IVF:
                                                                    886 mL
                                                                    303 mL
   Blood products:
   Total out:
                                                                  1,560 mL
                                                                    540 mL
   Urine:
                                                                  1,460 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
                                                                    100 mL
                                                                    100 mL
   Balance:
                                                                    346 mL
                                                                    190 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 274 (274 - 464) mL
   PS : 5 cmH2O
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 253
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.40/38/98.[**Numeric Identifier 176**]/23/0
   Ve: 7.7 L/min
   PaO2 / FiO2: 245
   Physical Examination
   Labs / Radiology
   13.0 g/dL
   93 K/uL
   140 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.3 mEq/L
   45 mg/dL
   111 mEq/L
   146 mEq/L
   40.1 %
   9.4 K/uL
        [image002.jpg]
                             [**2125-8-31**]  10:41 AM
                             [**2125-8-31**]  12:30 PM
                             [**2125-8-31**]  06:03 PM
                             [**2125-8-31**]  11:00 PM
                             [**2125-9-1**]  04:29 AM
                             [**2125-9-1**]  04:57 PM
                             [**2125-9-2**]  03:48 AM
                             [**2125-9-2**]  05:59 PM
                             [**2125-9-3**]  03:50 AM
                             [**2125-9-3**]  04:01 AM
   WBC
   6.6
   7.1
   9.4
   Hct
   32.6
   34.5
   33.9
   36.0
   39.0
   36.9
   40.1
   Plt
   87
   74
   93
   Cr
   0.8
   1.0
   0.9
   0.9
   TCO2
   26
   23
   24
   Glucose
   153
   109
   106
   140
   Other labs: PT / PTT / INR:26.5/53.7/2.6, ALT / AST:16/30, Alk Phos / T
   Bili:79/12.7, Differential-Neuts:70.7 %, Lymph:11.9 %, Mono:7.2 %,
   Eos:9.9 %, Fibrinogen:136 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:3.9
   g/dL, LDH:238 IU/L, Ca++:9.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   [**8-30**]: sputum +yeast
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Fluid Volume Overload
 CIRRHOSIS OF LIVER, ALCOHOLIC
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ASCITES
 EDEMA, PERIPHERAL
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   63 yo female with alcoholic cirrhosis admitted with ARF (resolved) and
   drug rash, tx
d to MICU for bleed/acute anemia secondary to
   hemorrhoids, intubated for airway to allow for massive resuscitation.
   Acute respiratory failure persists secondary to AMS/sedation.
   1.       Acute respiratory failure: MS the major barrier to extubation
   but appears to be following commands this morning.
   *Try SBT and if tolerates, would move quickly to extubation
   *with attempted sedation wean, becomes agitated with biting of the ETT-
   continue low level sedation and will stop once extubated
   2.       Acute GI bleed: no recent bleed, remains on PPI. Nadolol
   started
   3.       Nutrition: current with OGT for enteral feeds. If pt is
   extubated, Speech/Swallow eval prior to feeding
   4.       Alcoholic cirrhosis: on lactulose/rifaxamin, aztreonam (SBP
   prophylaxis) for 7 day course. Liver team following.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2125-8-31**] 01:20 PM
   Cordis/Introducer - [**2125-8-31**] 01:20 PM
   PICC Line - [**2125-8-31**] 01:20 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP: SBT, elevate HOB, mouth care, daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Pt is critically ill

2125-09-04 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2125-9-3**] 11:30 AM
 EKG - At [**2125-9-4**] 05:02 AM
   .
   - patient extubated and titrated to RA
   - patient likely to be listed for transplant this afternoon
   - lasix at increased dose, diuresed 0.7 L
   - needs S&S and PT eval in AM
   - possible liver for her which with procurement time of 7 AM today.
   Patient unable to provide history: Sedated
   Allergies:
   Ceftriaxone
   Rash; eosinophi
   Last dose of Antibiotics:
   Vancomycin - [**2125-9-2**] 12:00 AM
   Aztreonam - [**2125-9-4**] 12:22 AM
   Infusions:
   Other ICU medications:
   Propofol - [**2125-9-3**] 08:15 AM
   Furosemide (Lasix) - [**2125-9-3**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-4**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.5
C (95.9
   HR: 59 (58 - 85) bpm
   BP: 136/72(99) {116/57(80) - 143/78(104)} mmHg
   RR: 16 (8 - 18) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 68.8 kg (admission): 68.8 kg
   Height: 63 Inch
             Total In:
                                                                  1,024 mL
                                                                    124 mL
   PO:
             TF:
                                                                    107 mL
   IVF:
                                                                    597 mL
                                                                    124 mL
   Blood products:
   Total out:
                                                                  1,741 mL
                                                                    570 mL
   Urine:
                                                                  1,641 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
                                                                    100 mL
   Balance:
                                                                   -717 mL
                                                                   -446 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: Standby
   Vt (Spontaneous): 274 (274 - 274) mL
   PS : 0 cmH2O
   RR (Spontaneous): 33
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 253
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.45/37/71/25/1
   Ve: 7.7 L/min
   PaO2 / FiO2: 178
   Physical Examination
   Gen: sedated, intubated
   HEENT: icteric sclera
   CV: RRR, nom/r/g
   Pulm: CTA b/l
   Abd: distended, soft, NT, bowel sounds present
   Ext: b/l pitting edema
   Labs / Radiology
   95 K/uL
   12.3 g/dL
   81 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.6 mEq/L
   47 mg/dL
   115 mEq/L
   149 mEq/L
   38.1 %
   6.7 K/uL
        [image002.jpg]
                             [**2125-9-1**]  04:29 AM
                             [**2125-9-1**]  04:57 PM
                             [**2125-9-2**]  03:48 AM
                             [**2125-9-2**]  05:59 PM
                             [**2125-9-3**]  03:50 AM
                             [**2125-9-3**]  04:01 AM
                             [**2125-9-3**]  12:43 PM
                             [**2125-9-3**]  06:38 PM
                             [**2125-9-4**]  03:50 AM
                             [**2125-9-4**]  03:58 AM
   WBC
   6.6
   7.1
   9.4
   7.6
   6.7
   Hct
   36.0
   39.0
   36.9
   40.1
   37.4
   38.1
   Plt
   87
   74
   93
   97
   95
   Cr
   0.8
   1.0
   0.9
   0.9
   0.8
   TCO2
   23
   24
   25
   27
   Glucose
   153
   109
   106
   140
   81
   Other labs: PT / PTT / INR:26.2/56.3/2.5, ALT / AST:13/27, Alk Phos / T
   Bili:76/11.8, Differential-Neuts:57.6 %, Lymph:19.3 %, Mono:8.6 %,
   Eos:14.1 %, Fibrinogen:120 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:3.9
   g/dL, LDH:218 IU/L, Ca++:9.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Fluid Volume Overload
 CIRRHOSIS OF LIVER, ALCOHOLIC
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ASCITES
 EDEMA, PERIPHERAL
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   .
   Ms. [**Known lastname 5566**] is a 63 yo female with alcoholic cirrhosis who was
   initially admitted on [**2125-8-19**] for ARF which has improved with albumin
   and holding diuretics, now in MICU for GIB (?hemorroidal).
   .
   1. GIB.  Patient has history of esophageal varices and antral ulcer.
   .EGD showed no evidence of bleeding, but colonoscopy showed bleeding
   hemorrhoids She underwent anoscopy by surgery with suture placement
   followed by packing with some improvement of bleeding.   She is s/p 7
   units PRBCs and s/p 6 units of FFP, but no transfusions in > 72 hours.
   Hct stable.
   - cont PO PPI
   - transfuse to keep Hct > 30
   - will allow INR to rise,but transfuse FFP if there is evidence of
   re-bleed
   - vit K daily
   - Access: right sided picc, 2 20 guage peripherals, cordis, will keep
   cordis until discharged from ICU
   - resume low dose nadolol
   - urgent tips placement vs. local control with surgery (suture/clips)
   versus tamponade with foley if brisk bleed
   .
   2.  AMS.  Patient remains sedated off all sedation for 36  hours, but
   is overall improved.  No historic problem with encephalopathy, but
   likely due to sedative effects.  Improved off sedation but then gets
   agitated.
   - lactulose/rifaxamin restarted yesterday
    - propofol for now until ready to extubate, will try to extubate this
   morning
   .
   Nutrition: OG tube being pulled out after extubation
   - speech and swallow eval post extubation
   - start PO feeds if passes, hold PO meds until speech and swallow
   .
   3. Alcoholic cirrhosis.  Patient has alcoholic cirrhosis complicated by
   ascites, and encephalopathy in the past.  She requires weekly [**Doctor First Name 3619**].
   MELD as high as 42 last week, but bili starting to trend down.
   Currently undergoing liver transplant eval and hopes to be put on the
   list soon.
   - cont low dose nadolol
   - cont lactulose/rifaximin
   - aztreonam to cover SBP prophylaxis
 will continue, on day [**6-14**] of
   treatment
   .
   Respiratory failure.  Patient intubated for airway protection.  Now
   with LLL infiltrate.  Has not spiked fever or had a white count.  Do
   not think she necessarily had a pneumonia.
   - stopping vanco today
   - cont aztreonam for SBP, although will try to narrow after taking with
   GI
   - extubate today
   .
   4.  Eosinophilia.  Likely secondary to ceftriaxone drug rash.
   - trend eos
   - d/c ceftriaxone
   5..  ARF.  ARF has improved from Cr of 4.0 to 0.8  today with albumin
   and holding diuretics and 7 units of PRBCs a few days back, continue to
   monitor.
   - follow Cr
   .
   7.  Exfoliative Dermatitis.  Was evaluated by derm and thought to be
   consistent wtih a drug rash.  Now resolving.
   - continue triamcinolone and sarna
   .
   8.  Pulmonary Hypertension.  Pulmonary HTN noted on right heart cath as
   part of transplant workup.  It is most likely related to fluid
   overload, though unable to diurese at current time due to GIB.
   - will try to initiate more aggressive diuresis today
   .
   RLE edema.  Patient with Right greater than Left edema.  LENI was
   negative for DVT.
   - lasix 40 mg IV bid
   - when taking PO, start spironolactone 100 mg daily
   .
   FEN: PRBC transfusions, replete electrolytes, speech and swallow
   .
   Prophylaxis: pneumoboots
   .
   Access: right PICC, 2 20s, corids
   .
   Nutrition:  NGT, TFs starting today
   .
   Code: full, confirmed with patient, ICU consent signed
   .
   Communication: Patient
   .
   Disposition: pending stability of hct and cessation of GIB
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2125-8-31**] 01:20 PM
   Cordis/Introducer - [**2125-8-31**] 01:20 PM
   PICC Line - [**2125-8-31**] 01:20 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: with husband
   [**Name (NI) 36**] status: Full code
   Disposition:

2125-09-04 11:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated yest succesfully, breathing comfortably on RA. Currently
   listed for liver transplant. Speech and swallow eval pending
   Allergies:
   Ceftriaxone
   Rash; eosinophi
   Last dose of Antibiotics:
   Vancomycin - [**2125-9-2**] 12:00 AM
   Aztreonam - [**2125-9-4**] 08:06 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2125-9-4**] 09:34 AM
   Other medications:
   folate, ursodiol, thiamine, zinc, vit K, lactulose, vit D, NaHCO3,
   aztreonam, nadolol, lansoprazole, FesO4, lasix 40 iv bid
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-4**] 11:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.7
C (96.2
   HR: 63 (56 - 74) bpm
   BP: 148/78(107) {116/57(80) - 167/121(140)} mmHg
   RR: 15 (8 - 17) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.8 kg (admission): 68.8 kg
   Height: 63 Inch
             Total In:
                                                                  1,024 mL
                                                                    209 mL
   PO:
             TF:
                                                                    107 mL
   IVF:
                                                                    597 mL
                                                                    209 mL
   Blood products:
   Total out:
                                                                  1,741 mL
                                                                    695 mL
   Urine:
                                                                  1,641 mL
                                                                    695 mL
   NG:
   Stool:
   Drains:
                                                                    100 mL
   Balance:
                                                                   -717 mL
                                                                   -487 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: Standby
   PS : 0 cmH2O
   PEEP: 0 cmH2O
   FiO2: 40%
   SpO2: 99%
   ABG: 7.45/37/71/25/1
   PaO2 / FiO2: 178
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: B bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed, Rash: erythematous patches on abd, Jaundice,
   weeping paracentesis sites
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.3 g/dL
   95 K/uL
   81 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.6 mEq/L
   47 mg/dL
   115 mEq/L
   149 mEq/L
   38.1 %
   6.7 K/uL
        [image002.jpg]
                             [**2125-9-1**]  04:29 AM
                             [**2125-9-1**]  04:57 PM
                             [**2125-9-2**]  03:48 AM
                             [**2125-9-2**]  05:59 PM
                             [**2125-9-3**]  03:50 AM
                             [**2125-9-3**]  04:01 AM
                             [**2125-9-3**]  12:43 PM
                             [**2125-9-3**]  06:38 PM
                             [**2125-9-4**]  03:50 AM
                             [**2125-9-4**]  03:58 AM
   WBC
   6.6
   7.1
   9.4
   7.6
   6.7
   Hct
   36.0
   39.0
   36.9
   40.1
   37.4
   38.1
   Plt
   87
   74
   93
   97
   95
   Cr
   0.8
   1.0
   0.9
   0.9
   0.8
   TCO2
   23
   24
   25
   27
   Glucose
   153
   109
   106
   140
   81
   Other labs: PT / PTT / INR:26.2/56.3/2.5, ALT / AST:13/27, Alk Phos / T
   Bili:76/11.8, Differential-Neuts:57.6 %, Lymph:19.3 %, Mono:8.6 %,
   Eos:14.1 %, Fibrinogen:120 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:3.9
   g/dL, LDH:218 IU/L, Ca++:9.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR ([**9-4**])- low lung volumes, L effusions w/ atelectasis vs
   infiltrate
   Microbiology: all neg or pending
   Assessment and Plan
   63 yo female with alcoholic cirrhosis admitted with ARF (resolved) and
   drug rash, tx
d to MICU for bleed/acute anemia secondary to
   hemorrhoids, intubated for airway to allow for massive resuscitation.
   1. Resp failure- resolved
   2. Acute GI bleed: no recent bleed, remains on PPI. Nadolol started
   3. Nutrition: npo currently
   -Speech and swallow evaluation, po status pending this
   4. ESLD 2' EtOH cirrhosis- listed for transplant
   -cont lactulose
   -on lasix, switch to 40 po qd
   -added spironolactone, increase to 100 qd
   -aztreonam (SBP prophylaxis) for 7 day course
   -Liver team following
   5. Eosinophilia- persists despite dc of many meds, including CTX,
   rifaximin, midodrine
   -will dc aztreonam tomorrow, cont to trend
   6. Dispo- transfer out of ICU today
   -pull introducer sheath today, will need FFP prior to pulling
   Remainder of plan as per housestaff note.
   ICU Care
   Nutrition:
   Comments: free H2O 200 q6- not getting. passed swallow test- thin
   liquids, soft solids. meds w/ applesauce
   Glycemic Control:
   Lines:
   Arterial Line - [**2125-8-31**] 01:20 PM
   Cordis/Introducer - [**2125-8-31**] 01:20 PM
   PICC Line - [**2125-8-31**] 01:20 PM
   Comments: pull a line, introducer sheath
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   ------ Protected Section ------
   I saw and examined this pt independently, and was present with the ICU
   housestaff team for the relevant portions of the services provided. I
   would add: 63 yo female with alcoholic cirrhosis transferred to MICU
   with GI bleed/acute blood loss anemia secondary to hemorrhoids,
   resolved. Intubated electively in anticipation of massive
   resuscitation, with subsequent course notable for continued respiratory
   failure in the context of altered mental status/sedation. Extubated
   yesterday, now requiring supplemental oxygen. Cleared by speech therapy
   for po intake. Re-starting diuretics for ascites, to complete 7 day
   course of aztreonam tomorrow. Appears appropriate for transfer to
   floor.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2125-9-4**] 15:26 ------